US06825188B2
d) Ethyl-6-(methylamino)-2-pyridylacetate
A solution of ethyl-6-[(tert-butoxycarbonyl)methylamino]-2-pyridylacetate (0.6 g, 2 mmol) and 4 M HCl/dioxane (5 mL, 20 mmol) was stirred at RT overnight, then was concentrated. Reconcentration from toluene gave the title compound as white solid: MS (ES) m/e 195 (M+H)+.

reactant | ethyl-6-[(tert-butoxycarbonyl)methylamino]-2-pyridylacetate | 2 mmol, 0.6 g | C(C)OC(CC1=NC(=CC=C1)NCC(=O)OC(C)(C)C)=O | C15H22N2O4
reactant | HCl dioxane | 20 mmol, 4 M, 5 mL | Cl.O1CCOCC1
product | Ethyl-6-(methylamino)-2-pyridylacetate | C(C)OC(CC1=NC(=CC=C1)NC)=O | C10H14N2O2
